US04599344
2-[3-(3-Amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one dihydrochloride
Hydrogenate 11.2 g (0.03 mole) of 2-[3-(4-chloro-3-nitrophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride over 1.5 g of 10% palladium on carbon catalyst in 250 ml of ethanol. Follow the progress of the reaction by hydrogen uptake and by thin-layer chromatography. When the reaction is complete remove the catalyst by filtration. To the filtrate add 5 ml of concentrated hydrochloric acid. Remove the solvent in vacuo to give the title compound.

reactant | 2-[3-(4-chloro-3-nitrophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | 0.03 mole, 11.2 g | Cl.ClC1=C(C=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O)[N+](=O)[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-[3-(3-Amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one dihydrochloride | Cl.Cl.NC=1C=C(C=CC1Cl)C(CCC1N2CCC(C1=O)CC2)=O | InChI=1S/C16H19ClN2O2.2ClH/c17-12-2-1-11(9-13(12)18)15(20)4-3-14-16(21)10-5-7-19(14)8-6-10;;/h1-2,9-10,14H,3-8,18H2;2*1H
